US04374220
Preparation of N,N'-(p-phenylene)-bis[3,4,5,6-tetrachlorophthalimide]:
In a 5 liter round-bottom flask equipped with a heating mantle, a stirrer, a thermometer, a condenser and a nitrogen purge, there were reacted 457.5 gms (1.6 mole) of tetrachlorophthalic anhydride and 86.5 gms (0.8 mole) of p-phenylenediamine in 2000 ml. of N-methyl-2-pyrrolidone (NMP), the reactants going into solution as the mixture was heated with stirring. At 170° C., precipitation began and continued as the temperature was raised to 200° C. where it was maintained for 90 minutes. The reaction mixture was then allowed to cool overnight. The cooled mixture was filtered and the yellow precipitate was recovered. The precipitate was washed with NMP, thoroughly stirred in acetone, filtered and washed with more acetone. The product was dried under vacuum at 150° C. for 16 hours. 272.7 gms (yield=53%) of an ivory-yellow material was obtained, having a melting point in excess of 500° C., with some sublimation at about 425° C. The IR spectrum had the characteristics of an imide with the absorption bands at 1710s and 1770w cm-1. The product was insoluble in water.

reactant | tetrachlorophthalic anhydride | 1.6 mole, 457.5 gms | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | p-phenylenediamine | 0.8 mole, 86.5 gms | C1=CC(=CC=C1N)N | C6H8N2
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N,N'-(p-phenylene)-bis[3,4,5,6-tetrachlorophthalimide] | 272.7 gms, yield=53% | C1(=CC=C(C=C1)N1C(C=2C(C1=O)=C(C(=C(C2Cl)Cl)Cl)Cl)=O)N2C(C=1C(C2=O)=C(C(=C(C1Cl)Cl)Cl)Cl)=O | C22H4Cl8N2O4
